US20010023300A1
4100 ml of thionyl chloride and 41 ml of pyridine were introduced into a stirred apparatus fitted with metering device and gas outlet leading to a scrubber via a reflux condenser, and, at 20° C., 2050 g of 3-cyano-2,4-dichloro-5-fluorobenzoic acid (99.5% strength) were introduced at the rate of hydrogen chloride/sulphur dioxide evolution. At the end of the addition, the mixture was heated to reflux until the evolution of gas ceased. The mixture was then distilled. In the boiling range from 142 to 145° C./10 mbar, 2150 g (95.7% of theory) of 3-cyano-2,4-dichloro-5-fluorobenzoyl chloride were obtained (content according to GC: 98.0%).

reactant | thionyl chloride | 4100 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-cyano-2,4-dichloro-5-fluorobenzoic acid | 2050 g | C(#N)C=1C(=C(C(=O)O)C=C(C1Cl)F)Cl | C8H2Cl2FNO2
reactant | hydrogen chloride sulphur dioxide | Cl.S(=O)=O
solvent | pyridine | 41 ml | N1=CC=CC=C1 | C5H5N
product | 3-cyano-2,4-dichloro-5-fluorobenzoyl chloride | 2150 g, 95.7% | C(#N)C=1C(=C(C(=O)Cl)C=C(C1Cl)F)Cl | C8HCl3FNO
